US08445510B2
4-(4-Iodopyrazol-1-yl)cyclohexanone
The mixture of 1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole (20.0 g, 59.8 mmol), pyridinium p-toluenesulfonate (30.1 g, 120 mmol) in acetone (300 mL) and H2O (300 mL) was heated at 65° C. for 16 h. The reaction mixture was partitioned between EtOAc (200 mL) and H2O (100 mL), and the layers were separated. The aqueous layer was re-extracted with EtOAc (3×100 mL), and the combined organic fractions were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo resulting in 17.1 g (98% yield) of the title compound as a white solid. The material was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): δ=7.54 (s, 1H), 7.52 (s, 1H), 4.62 (tt, J=4.0, 10.1 Hz, 1H), 2.64-2.38 (m, 6H), 2.36-2.24 (m, 2H). MS (ES+): m/z=291.00 [MH+]. HPLC: tR=3.37 min (polar—5 min, ZQ3).

reactant | 1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole | 59.8 mmol, 20.0 g | O1CCOC12CCC(CC2)N2N=CC(=C2)I | C11H15IN2O2
reactant | pyridinium p-toluenesulfonate | 120 mmol, 30.1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 300 mL | CC(=O)C | C3H6O
solvent | H2O | 300 mL | O | H2O
product | 4-(4-Iodopyrazol-1-yl)cyclohexanone | 17.1 g, 98% yield | IC=1C=NN(C1)C1CCC(CC1)=O | C9H11IN2O
